US09193689B2
To a solution of 1-[1-(4-bromo-phenyl)-1-methyl-ethyl]-4-(toluene-4-sulfonyl)-piperazine (200 mg, 0.45 mmol) in DMF (3 mL) was added zinc cyanide (64.41 mg, 0.54 mmol) and tetrakis(triphenylphosphine)palladium(0) (52 mg, 0.045 mmol) and the reaction mixture degassed for 10 min under N2. The reaction mixture was then subjected to microwave irradiation for 30 min at 180° C., afterwhich time the reaction was diluted with 1:1 CH2Cl2/EtOAc (20 mL), washed with water (2×10 mL), passed through a phase separation cartridge and concentrated in vacuo. The crude residue was purified by reverse phase preparative HPLC-MS to afford 4-{1-methyl-1-[4-(toluene-4-sulfonyl)-piperazin-1-yl]-ethyl]-benzonitrile as a cream solid (70 mg, 47%).

reactant | 1-[1-(4-bromo-phenyl)-1-methyl-ethyl]-4-(toluene-4-sulfonyl)-piperazine | 0.45 mmol, 200 mg | BrC1=CC=C(C=C1)C(C)(C)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C20H25BrN2O2S
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.54 mmol, 64.41 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.045 mmol, 52 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-{1-methyl-1-[4-(toluene-4-sulfonyl)-piperazin-1-yl]-ethyl]-benzonitrile | 70 mg, 47% | CC(C)(N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=C(C#N)C=C1 | C21H25N3O2S
